US06337351B1
3-Bromo-N,N-dimethylaniline
According to the procedure of Borch and Hassid, J. Org. Chem. 37:1673 (1972), sodium cyanoborohydride (4.75 g, 75.0 mmol) was added to a stirred solution of 3-bromoaniline (4.30 g, 25.0 mmol) and 37% aqueous formaldehyde (20 mL, 0.25 moles) in acetonitrile (200 mL). Glacial acetic acid (2.5 mL) was added drop-wise (10 min) to the stirred suspension, without cooling. The temperature gradually increased to 40° C. After stirring for 2 h, the mixture was treated with a second 2.5 mL portion of acetic acid. Stirring was continued for another hour. The mixture was then poured into ether (400 mL) and extracted with 1 M aqueous KOH (3×100 mL). The ether layer was washed once with saturated aqueous NaCl, dried (K2CO3) and evaporated. This left a biphasic mixture, which was separated by careful pipetting. The larger fraction was vacuum distilled to give 4.13 g (82.6% yield) of colorless oil, bp 79-80° C. at 0.4 mm Hg.

reactant | sodium cyanoborohydride | 75.0 mmol, 4.75 g | C(#N)[BH3-].[Na+]
reactant | 3-bromoaniline | 25.0 mmol, 4.30 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | formaldehyde | 0.25 moles, 20 mL | C=O | CH2O
reactant | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | ether | 400 mL | CCOCC | C4H10O
product | 3-Bromo-N,N-dimethylaniline | 4.13 g, 82.6% yield | BrC=1C=C(N(C)C)C=CC1 | C8H10BrN
